US04066657
6-(2-phenylacetamido)-2,2-dimethyl-3-phosphonopenam
6-(2-phenylacetamido)-2,2-dimethyl-3-(O-methylphosphono)penam (384 mg., 1.0 millimole) is dissolved in 4 ml. of dry pyridine then trimethylchlorosilane (0.381 ml., 3.0 millimoles) and lithium iodide (536 mg., 4.0 millimoles) are added. The reaction mixture is stirred under nitrogen at 25° C. for 5 hours after which 2 ml. of water is added. The mixture is stirred for 10 minutes then the volatiles removed by evaporation in vacuo. The residue was taken up in water, adjusted to pH 8.0 and extracted with 3 × 10 ml. of chloroform. The aqueous phase was then acidified to pH 1.5 and extracted with 3 × 10 ml. of ethyl acetate. The ethyl acetate extracts were dried over sodium sulfate then evaporated to dryness to obtain the title compound.

reactant | 6-(2-phenylacetamido)-2,2-dimethyl-3-(O-methylphosphono)penam | 1.0 millimole, 384 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)P(=O)(OC)O)C1=O | C16H21N2O5PS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | trimethylchlorosilane | 3.0 millimoles, 0.381 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | lithium iodide | 4.0 millimoles, 536 mg | [I-].[Li+]
solvent | water | O | H2O
product | 6-(2-phenylacetamido)-2,2-dimethyl-3-phosphonopenam | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)P(=O)(O)O)C1=O | C15H19N2O5PS
